US07691902B2
To a solution of (R)-[1-(4-bromo-benzenesulfonyl)-pyrrolidin-2-yl]-methanol (1.6 g, 5.0 mmol) in DMF (10 mL) was added 3-amino-phenyl boronic acid (0.75 g, 5.5 mmol), Pd(PPh3)4 (45 mg, 0.15 mmol), potassium carbonate (0.75 g, 5.5 mmol) and water (5 mL). The resulting mixture was degassed by gently bubbling argon through the solution for 5 minutes at 20° C. The reaction mixture was then heated at 80° C. overnight. The reaction was filtered through a pad of silica gel, which was washed with CH2Cl2 (25 mL×3). The combined organics were concentrated under reduced pressure to give the crude product, which was washed with EtOAc to give pure (R)-(1-(3′-aminobiphenyl-4-ylsulfonyl)pyrrolidin-2-yl)methanol (C-2) (810 mg, 49%). 1H NMR (300 MHz, CDCl3) δ 7.88 (d, J=8.7 Hz, 2H), 7.70 (d, J=8.7 Hz, 2H), 7.23-7.28 (m, 1H), 6.98 (d, J=7.8 Hz, 1H), 6.91 (d, J=1.8 Hz, 1H), 6.74 (dd, J=7.8, 1.2 Hz, 1H), 3.66-3.77 (m, 3H), 3.45-3.53 (m, 1H), 3.26-3.34 (m, 1H), 1.68-1.88 (m, 3H), 1.45-1.55 (m, 1H). MS (ESI) m/e (M+H+) 333.0.

reactant | (R)-[1-(4-bromo-benzenesulfonyl)-pyrrolidin-2-yl]-methanol | 5.0 mmol, 1.6 g | BrC1=CC=C(C=C1)S(=O)(=O)N1[C@H](CCC1)CO | C11H14BrNO3S
reactant | 3-amino-phenyl boronic acid | 5.5 mmol, 0.75 g | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | potassium carbonate | 5.5 mmol, 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 5 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.15 mmol, 45 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-(1-(3′-aminobiphenyl-4-ylsulfonyl)pyrrolidin-2-yl)methanol | 810 mg, 49% | NC=1C=C(C=CC1)C1=CC=C(C=C1)S(=O)(=O)N1[C@H](CCC1)CO | C17H20N2O3S
